US06635753B1
The Stavudine-DMA solvate (15.2 g, 0.0488 mole) was combined with water (15.2 g) and heated to 65° C. when all solids dissolved to give a clear colourless solution. The solution was allowed to cool on its own for an hour during which time a large amount of crystals formed. The mixture was cooled on an ice-water bath for 80 minutes, the crystals were crushed, filtered, washed with acetone and air dried to give 8.08 g (0.0360 mole, 73.7%) of pure white crystalline Stavudine. The HPLC results are given in Table 2.

reactant | Stavudine DMA | 0.0488 mole, 15.2 g | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CC(=O)N(C)C
solvent | water | 15.2 g | O | H2O
product | Stavudine | 0.0360 mole, 8.08 g, 73.7% | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO | C10H12N2O4
